US05506089
By the procedure described in Ex 8, 4-styrylpyridine (3.62 g) and 2-(2-bromoethyl) 1,3-dioxolane (3.76 g) were reacted to obtain N-[2-(1,3-dioxolane-2-yl) ethyl]-4-styrylpyridinium bromide.

reactant | 4-styrylpyridine | 3.62 g | C(=CC1=CC=CC=C1)C1=CC=NC=C1 | C13H11N
reactant | 2-(2-bromoethyl) 1,3-dioxolane | 3.76 g | BrCCC1OCCO1 | C5H9BrO2
product | N-[2-(1,3-dioxolane-2-yl) ethyl]-4-styrylpyridinium bromide | [Br-].O1C(OCC1)CC[N+]1=CC=C(C=C1)C=CC1=CC=CC=C1 | InChI=1S/C18H20NO2.BrH/c1-2-4-16(5-3-1)6-7-17-8-11-19(12-9-17)13-10-18-20-14-15-21-18;/h1-9,11-12,18H,10,13-15H2;1H/q+1;/p-1
